US07304081B2
Step 2. 1-{4-[allyl(methoxycarbonyl)amino]phenyl}cyclopropanecarboxylic acid
Methyl chloroformate (34 μL, 0.00044 mol) was added to a mixture of tert-butyl 1-[4-(allylamino)phenyl]cyclopropanecarboxylate (6.0×10−1 mg, 0.00022 mol) and triethylamine (92 μL, 0.00066 mol) in acetonitrile (1.0 mL, 0.019 mol) at rt. The reaction mixture was stirred at rt for 30 minutes, then was washed with water, and then extracted with EtOAc (3×). The organic layers were combined and concentrated. To the residue was added 4.0M HCl in dioxane and the reaction was stirred at rt for 2 h. The solvent was removed in-vacuo and used in the following step. LC/MS: 276.2 (M+H+).

reactant | Methyl chloroformate | 0.00044 mol, 34 μL | ClC(=O)OC | C2H3ClO2
reactant | tert-butyl 1-[4-(allylamino)phenyl]cyclopropanecarboxylate | 0.00022 mol, 6.0×10−1 mg | C(C=C)NC1=CC=C(C=C1)C1(CC1)C(=O)OC(C)(C)C | C17H23NO2
reactant | triethylamine | 0.00066 mol, 92 μL | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 0.019 mol, 1.0 mL | C(C)#N | C2H3N
product | 1-{4-[allyl(methoxycarbonyl)amino]phenyl}cyclopropanecarboxylic acid | C(C=C)N(C1=CC=C(C=C1)C1(CC1)C(=O)O)C(=O)OC | C15H17NO4
